US06730791B2
Step F: Preparation of [4-(cyclopropylcarbonyl)phenyl]methyl-propanedioic acid, diethyl ester
Dissolve 4-(cyclopropylcarbonyl)benzeneacetic acid, ethyl ester (6.5 g, 28 mmol) and diethylcarbonate (4.0 g, 34 mmol) in tetrahydrofuran (100 mL). Add 62 mL (62 mmol) of a 1.0 molar solution of sodium bis(trimethylsilyl)amide in tetrahydrofuran over 0.5 hours. Stir 28 hours. Add iodomethane (5.3 g, 35 mmol). Stir 2 days. Add water and ethyl acetate. Wash organic phase with brine, dry over anhydrous magnesium sulfate and concentrate. Purify by flash chromatography (200 g silica gel, ethyl acetate/heptane as eluent) to give the title compound (1.43 g, 17%).

reactant | 4-(cyclopropylcarbonyl)benzeneacetic acid, ethyl ester | 28 mmol, 6.5 g | C1(CC1)C(=O)C1=CC=C(C=C1)CC(=O)OCC | C14H16O3
reactant | diethylcarbonate | 34 mmol, 4.0 g | C(C)OC(OCC)=O | C5H10O3
reactant | sodium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | iodomethane | 35 mmol, 5.3 g | IC | CH3I
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | [4-(cyclopropylcarbonyl)phenyl]methyl-propanedioic acid, diethyl ester | 1.43 g, 17% | C1(CC1)C(=O)C1=CC=C(C=C1)CC(C(=O)OCC)C(=O)OCC | C18H22O5
